US06451811B2
N-(4-chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide (250 mg), copper iodide (40 mg) and dichlorobis(triphenylphosphine)palladium (30 mg) are dissolved in a mixture of diethylamine (15 mL) and THF (15 mL). To this is added propargyl alcohol (452 μL). The mixture is heated at reflux for 1 h, cooled to room temperature, diluted with CH2Cl2, washed with 1N HCl, brine, dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography (CH2Cl2/MeOH 1/0, 45/1, 19/1, 9/1) and the resulting product is recrystalized from MeOH to afford 144 mg (68%) of N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide. Physical characteristics are as follows: 1H NMR (CDCl3) δ 8.80, 8.60, 7.32, 4.65, 4.57, 4.13, 3.98; IR (diffuse reflectance) 2425, 2350, 2318, 2233, 1921, 1662, 1607, 1551, 1512, 1492, 1465, 1397, 1380, 1292, 809, cm−1; MS (EI) m/z 411 (M+), 244, 86, 84, 80, 79, 78, 65, 63, 61, 51; HRMS (FAB) calcd for C21H18ClN3O4+H1 412.1064, found 412.1067.

reactant | N-(4-chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 250 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)I)OC)C)C=C1 | C18H15ClIN3O3
reactant | propargyl alcohol | 452 μL | C(C#C)O | C3H4O
solvent | diethylamine | 15 mL | C(C)NCC | C4H11N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper iodide | 40 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 144 mg, 68% | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)C#CCO)OC)C)C=C1 | C21H18ClN3O4
